US07598257B2
Step 3: trans-4-[(Trityloxy)methyl]cyclohexyl methanesulfonate.
trans-4-[(Trityloxy)methyl]cyclohexanol (2.72 g, 0.00730 mol) was dissolved in chloroform (30.0 mL) and the mixture was cooled at 0° C. To this mixture was added TEA (1.4 mL, 0.010 mol) and methanesulfonyl chloride (0.68 mL, 0.0088 mol) and the resulting mixture was stirred at 0° C. for 2 hours The reaction was then extracted with ethyl acetate and the organic extracts were washed with water, saturated NaCl, dried (MgSO4) and the concentrated in vacuo. 1H NMR (CDCl3):δ 7.43 (m, 6H), 7.20-7.31 (m, 9H), 4.57 (m, 1H), 3.00 (m, 3H), 2.90 (m, 2H), 2.16 (m, 2H), 1.93 (m, 2H), 1.09-1.60 (m, 5H).

reactant | trans-4-[(Trityloxy)methyl]cyclohexanol | 0.00730 mol, 2.72 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1CC[C@H](CC1)O | C26H28O2
reactant | methanesulfonyl chloride | 0.0088 mol, 0.68 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | chloroform | 30.0 mL | C(Cl)(Cl)Cl | CHCl3
product | trans-4-[(Trityloxy)methyl]cyclohexyl methanesulfonate | CS(=O)(=O)O[C@@H]1CC[C@H](CC1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H30O4S
